US05134142
A mixture of ethyl 1-(4-fluorophenyl)-5-(4-tolyl)pyrazole-3-carboxylate (2.7 g) and potassium hydroxide (1.1 g) in methanol (40 ml) was refluxed for 30 minutes. The solvent was evaporated, and the residue was dissolved in water and washed with ethyl acetate. The aqueous layer was acidified with dilute hydrochloric acid and extracted with ethyl acetate. The extract was washed with water, dried, and concentrated, giving crystals of 1-(4-fluorophenyl)-5-(4-tolyl)pyrazole-3-carboxylic acid (2.1 g).

reactant | ethyl 1-(4-fluorophenyl)-5-(4-tolyl)pyrazole-3-carboxylate | 2.7 g | FC1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)C)C(=O)OCC | C19H17FN2O2
reactant | potassium hydroxide | 1.1 g | [OH-].[K+]
solvent | methanol | 40 ml | CO | CH4O
product | 1-(4-fluorophenyl)-5-(4-tolyl)pyrazole-3-carboxylic acid | 2.1 g | FC1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)C)C(=O)O | C17H13FN2O2
